US06399627B1
To a solution of methyl 4-methoxy-3-oxobutanoate (5 g, 34.2 mmol) in 20 ml anhydrous dichloromethane was added triethylamine (5.24 ml, 37.6 mmol). Reaction was cooled under argon to −78° C. to which trifluoromethanesulfonic anhydride (10.6 gml, 37.6 mmol) was added dropwise via syringe over 5 minutes. Reaction was allowed to warm to room temperature and stirred over night. Next morning the reaction was diluted with 25 ml dichloromethane, organic was washed with 2×50 ml water, 2×50 ml 1N HCl, dried over magnesium sulfate, filtered and concentrated in vacuo. The crude oil was chromatographed on silica gel using a gradient of 5% EtOAc in hexane to 10% EtOAc in hexane as the eluent to give methyl (Z)-4-methoxy-3-{[(trifluoromethyl)sulfonyl]-oxy}-2-butenoate (5.1 g, 54%) as a clear colorless oil after drying. H1NMR (CDCl3) 3.342 (s, 3H); 3.711 (s, 3H); 3.99 (s, H); 6.02 (s, H).

reactant | methyl 4-methoxy-3-oxobutanoate | 34.2 mmol, 5 g | COCC(CC(=O)OC)=O | C6H10O4
reactant | triethylamine | 37.6 mmol, 5.24 ml | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonic anhydride | 37.6 mmol | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | methyl (Z)-4-methoxy-3-{[(trifluoromethyl)sulfonyl]-oxy}-2-butenoate | 5.1 g, 54% | COC/C(=C/C(=O)OC)/OS(=O)(=O)C(F)(F)F | C7H9F3O6S
